US07018997B2
Preparation of (5R, 6E)-6-[(10-benzyl-11-oxo-10,11-dihydrodibenzo[b,f][1,4]oxazepin-8-yl)methylene]-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid
A 0.5M phosphate buffer solution (pH 6.5) was added to a solution of 6-[acetoxy-(10-benzyl-11-oxo-10,11-dihydro-dibenzo[b,f][1,4]oxazepin-8-yl)-methyl]-6-bromo-7oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (0.210 g, 0.273 mmole) in THF, followed by 10% Pd—C (0.0546 g). The reaction mixture then was hydrogenated at 40 psi for three hours. Filtered through a celite pad and removed the THF by rotary evaporation, extracted the mixture with ethyl acetate and washed with water and brine. Dried the organic layer with sodium sulfate and filtered and concentrated. Dissolved the NaHCO3 with minimal amount of distal water and added it to the reaction mixture along with a small amount of ethyl acetate until the pH value reaches 7–8, evaporated the ethyl acetate. Purified with reverse phase column (MCI Gel CHP20P) with varying amounts of acetonitrile (0%-20%) in water. Removed the acetonitrile and water by rotary evaporation, and freeze-dried the compound. Obtained the desired material (yellow solid) in 24% yield.Mp: 179° C. 1H NMR (DMSO) δ 1.755–1.825 (s, 1H), 2.497–2.506 (d, 2H), 5.243–5.434 (m, 2H), 6.516–6.770 (m, 1H), 7.039–7.792 (m, 11H).

reactant | phosphate | 0.5M, pH 6.5 | P(=O)([O-])([O-])[O-]
reactant | 6-[acetoxy-(10-benzyl-11-oxo-10,11-dihydro-dibenzo[b,f][1,4]oxazepin-8-yl)-methyl]-6-bromo-7oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 0.273 mmole, 0.210 g | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C(C3SC2)(Br)C(C2=CC3=C(OC4=C(C(N3CC3=CC=CC=C3)=O)C=CC=C4)C=C2)OC(C)=O)=O)C=C1 | C36H26BrN3O9S
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd—C | 0.0546 g | [Pd] | Pd
product | (5R, 6E)-6-[(10-benzyl-11-oxo-10,11-dihydrodibenzo[b,f][1,4]oxazepin-8-yl)methylene]-7-oxo-4-thia-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 24% yield | C(C1=CC=CC=C1)N1C2=C(OC3=C(C1=O)C=CC=C3)C=CC(=C2)\C=C/2\[C@H]3SC=C(N3C2=O)C(=O)O | C27H18N2O5S
